US08957080B2
A solution of 3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-((S)-pyrrolidin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2.4 g Crude, 3.65 mmol, 1.00 equiv), 2-cyanoacetic acid (0.47 g, 5.48 mmol, 1.50 equiv), HATU (2.08 g, 5.48 mmol, 1.50 equiv), TEA (2.54 ml, 18.25 mmol, 5.00 equiv) in DCM (40 mL) was stirred overnight at room temperature. The resulting mixture was diluted with water, and extracted with DCM. The DCM layers were combined and washed with brine, dried over Na2SO4 and concentrated. The residue was submitted to flash chromatography (SiO2, PE: EtOAc=2:1 to 1:1) to give 1.28 g (69%) of 3-((S)-2-((4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile as a yellow solid.

reactant | 3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-((S)-pyrrolidin-2-ylmethyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 3.65 mmol, 2.4 g, 1.00 equiv | FC1=C(OC2=CC(=C(C=C2)C2=NN(C3=NC=NC(=C32)N)C[C@H]3NCCC3)F)C=CC=C1F | C22H19F3N6O
reactant | 2-cyanoacetic acid | 5.48 mmol, 0.47 g, 1.50 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 5.48 mmol, 2.08 g, 1.50 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-((S)-2-((4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)methyl)pyrrolidin-1-yl)-3-oxopropanenitrile | 1.28 g, 69% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=C(C(=CC=C2)F)F)F)C[C@H]2N(CCC2)C(CC#N)=O | C25H20F3N7O2
